US03960861
4-Amino-6,7-dimethoxy-2-(5,6-dimethoxyisoindolin-2-yl)quinazoline
A mixture consisting of the product of (B), viz., 5,6-dimethoxyisoindoline hydrochloride (1.9g.), together with 4-amino-2-chloro-6,7-dimethoxyquinazoline (2.16 g.) and N-ethylpiperidine (3.11 g.) all dissolved in 2-ethoxyethanol (60 ml.) was refluxed for a period of 6 hours, followed by cooling to room temperature (~25°C.). The resulting precipitate of 4-amino-6,7-dimethoxy-2-(5,6-dimethoxyisoindolin-2-yl)quinazoline hydrochloride (3.50 g., m.p. 318°C.) was then shaken with a mixture consisting of dichloromethane (1000 ml.) and 0.5N sodium hydroxide solution in 50% aqueous ethanol (200 ml.). On separation and utimate evaporation of the organic layer there was obtained a solid material (2.4 g.), which was subsequently crystallized from ethanol to give pure final product as the free base compound (yield, 1.40g.), m.p. 264°-6°C.

reactant | 5,6-dimethoxyisoindoline hydrochloride | 1.9g | Cl.COC=1C=C2CNCC2=CC1OC
reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 2.16 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | N-ethylpiperidine | 3.11 g | C(C)N1CCCCC1 | C7H15N
reactant | 4-amino-6,7-dimethoxy-2-(5,6-dimethoxyisoindolin-2-yl)quinazoline hydrochloride | 3.50 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CC2=CC(=C(C=C2C1)OC)OC
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
solvent | 2-ethoxyethanol | 60 ml | C(C)OCCO | C4H10O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 4-Amino-6,7-dimethoxy-2-(5,6-dimethoxyisoindolin-2-yl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CC2=CC(=C(C=C2C1)OC)OC | C20H22N4O4
